US08022205B2
In the same manner as Step A in Example 1-D-26, using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (215 mg) and 4-fluoro-3-bromo-benzaldehyde (113 mg) instead of 2-(4-bromo-phenyl)-[1,3]dioxolane, a crude product of 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-fluoro-benzaldehyde was obtained as a colorless solid (260 mg). Using a crude product (130 mg) of 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-fluoro-benzaldehyde, in the same manner as Step B in Example 1-D-26, using 1-ethylpiperazine (0.05 ml) instead of 1-methylpiperazine, a crude product of 5-{7-[5-(4-ethyl-piperazin-1-ylmethyl)-2-fluoro-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine was obtained as a colorless solid (57 mg). Using a crude product (57 mg) of 5-{7-[5-(4-ethyl-piperazin-1-ylmethyl)-2-fluoro-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine, according to the above Deprotection method 2, 5-{7-[5-(4-ethyl-piperazin-1-ylmethyl)-2-fluoro-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-ylamine was obtained as a colorless powder (26 mg, 68%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 215 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-fluoro-3-bromo-benzaldehyde | 113 mg | FC1=C(C=C(C=O)C=C1)Br | C7H4BrFO
product | 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-fluoro-benzaldehyde | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C=C(C=O)C=CC3F)CC3=CC=C(C=C3)OC)C=C1 | C37H36FN7O4
